US07772226B2
(a) [7-Benzyl-2,6-dioxo-1-(2-phenylethyl)-1,2,6,7-tetrahydropurin-yl]methyl 2,2-dimethylpropionate
A mixture consisting of 5.00 mg of [7-benzyl-2,6-dioxo-1,2,6,7-tetrahydropurin-3-yl]methyl 2,2-dimethylpropionate, 0.38 ml of 2-bromoethyl benzene, 390 mg of anhydrous potassium carbonate, and 5 ml of N,N-dimethylformamide was stirred in an oil bath at 50° C. for two hours. The reaction mixture was extracted with ethyl acetate and water, and the organic layer was washed with water and then with saturated saline. The organic liquid was dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was crystallized with ethyl acetate-hexane to give 540 mg of the title compound.

reactant | [7-benzyl-2,6-dioxo-1,2,6,7-tetrahydropurin-3-yl]methyl 2,2-dimethylpropionate | 5.00 mg | CC(C(=O)OCN1C(NC(C=2N(C=NC12)CC1=CC=CC=C1)=O)=O)(C)C | C18H20N4O4
reactant | 2-bromoethyl benzene | 0.38 ml | BrCCC1=CC=CC=C1 | C8H9Br
reactant | potassium carbonate | 390 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | [7-Benzyl-2,6-dioxo-1-(2-phenylethyl)-1,2,6,7-tetrahydropurin-yl]methyl 2,2-dimethylpropionate | 540 mg | CC(C(=O)OCC1=NC=2NC(N(C(C2N1CC1=CC=CC=C1)=O)CCC1=CC=CC=C1)=O)(C)C | C26H28N4O4
